US06124281
(c) Diethyl 4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-3,5-dicarboxylate
Pyridine (481.6 g, 6.08 moles) was added dropwise over 35 minutes to a mechanically stirred suspension of chromium (VI) oxide (304.56 g, 3.05 moles) (WARNING: adding pyridine to chromium (VI) oxide is an extremely dangerous procedure and, therefore, chromium (VI) oxide should preferably be added to pyridine) and methylene chloride (6 L) under N2. The reaction as stirred for 40 minutes after pyridine addition was completed and then a solution of diethyl 4-[(4-chloro-2-nitro phenyl)hydroxymethyl]-1H-pyrazole-3,5-dicarboxylate (202.5 g, 0.507 mole) in methylene chloride (1.3 L) was added dropwise over 0.5 hours at room temperature. Stirring at room temperature was continued overnight. CELITE™ (205 g) and additional Collins reagent [chromium (VI) oxide (50 g, 0.5 mole) and pyridine (120.3 g, 1.52 moles, methylene chloride (1 L)] were added and the reaction mixture was stirred for 4 days. The reaction mixture was filtered. The filter cake was washed with methylene chloride (3 L) and filtered. The filtrate and wash liquors were combined and concentrated under water aspirator vacuum. The residue was dissolved in ethyl acetate(2 L) and this solution was filtered through a short column of silica gel (3 L). The filtrate was concentrated under water aspirator vacuum. The solid residue was dissolved in warm toluene (800 mL) and then hexane (800 mL) was added with stirring. The mixture was allowed to cool to room temperature and was then filtered. The filter cake was washed with hexane (2×500 mL), and dried under vacuum at 50° C. to give the title compound as a white powder (186.08 g, 93%).

reactant | Pyridine | 6.08 moles, 481.6 g | N1=CC=CC=C1 | C5H5N
reactant | diethyl 4-[(4-chloro-2-nitro phenyl)hydroxymethyl]-1H-pyrazole-3,5-dicarboxylate | 0.507 mole, 202.5 g | ClC1=CC(=C(C=C1)C(C=1C(=NNC1C(=O)OCC)C(=O)OCC)O)[N+](=O)[O-] | C16H16ClN3O7
reactant | Collins reagent | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
solvent | methylene chloride | 1.3 L | C(Cl)Cl | CH2Cl2
catalyst | chromium (VI) oxide | 3.05 moles, 304.56 g | [O-2].[Cr+6].[O-2].[O-2]
catalyst | chromium (VI) oxide | 0.5 mole, 50 g | [O-2].[Cr+6].[O-2].[O-2]
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 L | C(Cl)Cl | CH2Cl2
product | Diethyl 4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-3,5-dicarboxylate | 186.08 g, 93% | ClC1=CC(=C(C(=O)C=2C(=NNC2C(=O)OCC)C(=O)OCC)C=C1)[N+](=O)[O-] | C16H14ClN3O7
